US06277858B1
In a sulfonation flask, 2.0 g (8 mmol) of 2-n-butyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one are added, with stirring, to 15 ml of absolute pyridine. The internal temperature is then raised to 80° C. and then 1.87 g (14 mmol) of N-chlorosuccinimide (NCS) are added in smallish portions. After stirring for 3 hours at 90° C. 1.0 g of NCS is added and the mixture is stirred another 3 hours at 90° C. The pyridine is removed in a water-jet vacuum and the crude product so obtained is purified by column chromatography over silica gel (eluant:n-hexane/tert.butylmethylether=3:1), giving 0.9 g of 2-n-butyl-6-chloro-3-propyl-3H-thieno-[2.3-d]pyrimidin-4-one in the form of a beige powder having a melting point of 67-69° C.

reactant | 2-n-butyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one | 8 mmol, 2.0 g | C(CCC)C=1N(C(C2=C(N1)SC=C2)=O)CCC | C13H18N2OS
reactant | N-chlorosuccinimide | 14 mmol, 1.87 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NCS | 1.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-n-butyl-6-chloro-3-propyl-3H-thieno-[2.3-d]pyrimidin-4-one | 0.9 g | C(CCC)C=1N(C(C2=C(N1)SC(=C2)Cl)=O)CCC | C13H17ClN2OS
